US06579875B1
c) 3-(2,4-Difluorophenyl)-7-(1-methylcyclohexyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine
Sodium hydride (60% dispersion in oil, 13 mg, 0.33 mmol) was added to a stirred solution of (2-methyl-2H-1,2,4-triazol-3-yl)methanol (prepared using the conditions described in EP-A-421210; 37 mg, 0.33 mmol) in anhydrous N,N-dimethylformamide (5 ml) at room temperature under nitrogen. This was stirred for 30 mins and 6-chloro-3-(2,4-difluorophenyl)-7-(1-methylcyclohexyl)-1,2,4-triazolo[4,3-b]pyridazine (100 mg, 0.275 mmol) in N,N-dimethylformamide (3 ml) was then added and the mixture stirred for a further 60 minutes. The reaction was quenched with water (20 ml) and stirred for an additional 60 minutes. The precipitated solid was collected by filtration and washed with water. The solid was dissolved in dichloromethane (20 ml), filtered and evaporated. The residue was recrystallised from ethyl acetate/hexane to give the title compound (38 mg): m.p.=196° C.; 1H NMR (360 MHz, CDCl3) δ1.32 (3H, s), 1.33-1.66 (6H, m), 1.72-1.81 (2H, m), 1.93-2.03 (2H, m), 3.87 (3H, s), 5.50 (2H, s), 7.00-7.14 (2H, m), 7.83-7.90 (1H, m), 7.91 (1H, s), 8.00 (1H, s MS (ES+) m/e 440 [MH]+; Anal. Found: C, 59.74; H, 5.23; N, 22.10. C22H23F2N7O requires: C, 60.13; H, 5.27; N, 22.31%.

reactant | Sodium hydride | 0.33 mmol, 13 mg | [H-].[Na+]
reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | CN1N=CN=C1CO | C4H7N3O
reactant | 6-chloro-3-(2,4-difluorophenyl)-7-(1-methylcyclohexyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.275 mmol, 100 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=C(C=C2)F)F)C2(CCCCC2)C | C18H17ClF2N4
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-(2,4-Difluorophenyl)-7-(1-methylcyclohexyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 38 mg | FC1=C(C=CC(=C1)F)C1=NN=C2N1N=C(C(=C2)C2(CCCCC2)C)OCC=2N(N=CN2)C | C22H23F2N7O
